US06897224B2
4-(5-Fluoro-2-methoxyphenyl)-1-(isoquinolin-1-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol
Analogously to Example 1, 200 mg (0.68 mmol) of 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-(trifluoromethyl)oxirane and 99 mg (0.68 mmol) of 1-aminoisoquinoline are reacted. After chromatography on silica gel with hexane-ethyl acetate (0-60%), 65 mg of product is obtained.

reactant | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-(trifluoromethyl)oxirane | 0.68 mmol, 200 mg | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
reactant | 1-aminoisoquinoline | 0.68 mmol, 99 mg | NC1=NC=CC2=CC=CC=C12 | C9H8N2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-(5-Fluoro-2-methoxyphenyl)-1-(isoquinolin-1-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 65 mg | FC=1C=CC(=C(C1)C(CC(CNC1=NC=CC2=CC=CC=C12)(O)C(F)(F)F)(C)C)OC | C23H24F4N2O2
